US06482819B1
7-Bromo-1-(4-nitrophenyl)-isochromane
20.1 g (100 mM) of 2-(4-bromophenyl)-ethanol and 15.1 g (100 mM) of 4-nitrobenzaldehyde were dissolved in 300 ml of anhydrous benzene, then 13.6 g (100 mM) of anhydrous zinc chloride were added and dry hydrochloric acid gas was led into the stirred mixture for 4 hours. Then the process described under Examples 1-7, Step a) was applied. The crude product was recrystallized from ethyl acetate.

reactant | 2-(4-bromophenyl)-ethanol | 100 mM, 20.1 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | 4-nitrobenzaldehyde | 100 mM, 15.1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc chloride | 100 mM, 13.6 g | [Cl-].[Zn+2].[Cl-]
product | 7-Bromo-1-(4-nitrophenyl)-isochromane | BrC1=CC=C2CCOC(C2=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12BrNO3
